US09428509B2
4-(4-Isopropoxy-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide
6-(2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole (1 equiv), 4-amino-3-methoxy-N-methylbenzamide (1.2 equiv), palladium acetate (0.1 equiv), 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (0.2 equiv), cesium carbonate (5 equiv), and 1,4-dioxane (0.14 M) were combined and allowed to stir at 110° C. for 4 h and then cool to ambient temperature overnight. The reaction mixture was diluted with ethyl acetate and filtered through a pre-wetted (with ethyl acetate) bed of Celite. The filtrate was concentrated to an oil under reduced pressure that was purified by silica gel chromatography (0-70% ethyl acetate with 10% MeOH/hexane) to afford the title compound (82% yield). MS (ESI) m/z 617.5 [M+1]+.

reactant | 6-(2-Chloro-4-isopropoxy-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC(C)C | C23H29ClN4O3Si
reactant | 4-amino-3-methoxy-N-methylbenzamide | 1.2 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 0.14 M | O1CCOCC1 | C4H8O2
product | 4-(4-Isopropoxy-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-3-methoxy-N-methylbenzamide | 82% yield | C(C)(C)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC)C=C1)OC)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C | C32H40N6O5Si
